US07179823B1
A mixture of ethyl 3-[1-(4-hydroxybenzyl)-3-phenyl-1H-pyrazol-4-yl]propionate (600 mg), 5-chloromethyl-2-phenylpyridine (350 mg), potassium carbonate (460 mg) and N,N-dimethylformamide (10 ml) was stirred at 80° C. for 5 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to obtain a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio). After a mixture of the resulting colorless oily substance, 1N aqueous sodium hydroxide solution (3 ml), tetrahydrofuran (5 ml) and ethanol (5 ml) was stirred at room temperature for 2 hours, 1N hydrochloric acid (3 ml) was added to the mixture, and then the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The resulting colorless crystals were collected by filtration to obtain 3-[3-phenyl-1-[4-(6-phenyl-3-pyridylmethoxy)benzyl]-1H-pyrazol-4-yl]propionic acid (710 mg, yield: 85%). This was recrystallized from acetone-hexane. Melting point: 155–156° C.

reactant | ethyl 3-[1-(4-hydroxybenzyl)-3-phenyl-1H-pyrazol-4-yl]propionate | 600 mg | OC1=CC=C(CN2N=C(C(=C2)CCC(=O)OCC)C2=CC=CC=C2)C=C1 | C21H22N2O3
reactant | 5-chloromethyl-2-phenylpyridine | 350 mg | ClCC=1C=CC(=NC1)C1=CC=CC=C1 | C12H10ClN
reactant | potassium carbonate | 460 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[3-phenyl-1-[4-(6-phenyl-3-pyridylmethoxy)benzyl]-1H-pyrazol-4-yl]propionic acid | 710 mg, yield: 85% | C1(=CC=CC=C1)C1=NN(C=C1CCC(=O)O)CC1=CC=C(C=C1)OCC=1C=NC(=CC1)C1=CC=CC=C1 | C31H27N3O3
